US04344963
65 ml of 15% strength solution of n-butyl-lithium in hexane were added dropwise to a suspension of 41.1 g (0.1 mol) of dry 3,3-dimethylallyl-triphenyl-phosphonium bromide in 300 ml of anhydrous tetrahydrofuran at 0° C. under nitrogen, while stirring. The deep red solution thus obtained was stirred at 0° C. for a further 15 minutes and 17.4 g (0.1 mol) of ≃,≃,≃-trifluoroacetophenone were then added dropwise at 0°-10° C. The mixture was subsequently stirred at room temperature until it was decolorized (about 12 hours). 600 ml of water were then added and the reaction mixture was extracted 5 times with 200 ml of petroleum ether each time. The petroleum ether phases were dried over magnesium sulphate and the solvent was then stripped off in a rotary evaporator under a waterpump vacuum. 150 ml of n-hexane were added to the residue and residual triphenyl-phosphine oxide was filtered off. The solvent was subsequently distilled off from the filtrate under normal pressure and the oily residue was then distilled in vacuo. 12.8 g (56.6% of theory) of 1,1,1-trifluoro-2-phenyl-5-methyl-hexa-2,4-diene were obtained as a slightly reddish liquid with a boiling point of 80°-85° C. under 3 mbar.

reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 3,3-dimethylallyl-triphenyl-phosphonium bromide | 0.1 mol, 41.1 g | [Br-].CC(=CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | trifluoroacetophenone | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | water | 600 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 1,1,1-trifluoro-2-phenyl-5-methyl-hexa-2,4-diene | 12.8 g, 56.6% | FC(C(=CC=C(C)C)C1=CC=CC=C1)(F)F | C13H13F3
